### ISSUE TITLE
`lia` produces bad counterexample on provable goal involving implications

### ISSUE THREAD

**Issue by andres-erbsen** [leanprover/lean4#13575]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Lia fails to prove the goal below and prints a bad counterexample.

### Context

This came up in the context of comparing lean `lia` tactic to similar proof procedures in other systems.

### Steps to Reproduce

```lean4
example (a b c d e : Int) :
    e = b + c - 1 →
    0 < c →
    (b ≤ b ∧ b < b + c → a ≤ b ∧ b < a + d) →
    (b ≤ e ∧ e < b + c → a ≤ e ∧ e < a + d) → -- assigned as `True → 0 < -1 + 1`
    b + c ≤ a + d :=
  by lia -- error: `grind` failed
  -- [cutsat] Assignment satisfying linear constraints ▼
  --   [assign] a := -1
  --   [assign] b := -1
  --   [assign] c := 2
  --   [assign] d := 1
  --   [assign] e := 0

example :
    let a := -1
    let b := -1
    let c := 2
    let d := 1
    let e := 0
    e = b + c - 1 →
    0 < c →
    (b ≤ b ∧ b < b + c → a ≤ b ∧ b < a + d) →
    (b ≤ e ∧ e < b + c → a ≤ e ∧ e < a + d) →
    b + c ≤ a + d :=
  by lia
```

**Expected behavior:** `lia` should prove the goal

**Actual behavior:** `lia` a prints a counterexample that it later itself doesn't believe is a counterexample. Similar goals are proven by coq and cvc5:

```coq
Require Import ZArith Lia.
Goal (forall a b c d e : Z,
  e = b + c - 1 ->
  0 < c ->
  (b <= b < b + c -> a <= b < a + d) ->
  (b <= e < b + c -> a <= e < a + d) ->
  b + c <= a + d)%Z.
Proof. lia. Qed.
```

```smt
(set-logic LIA)
(declare-const a Int)(declare-const b Int)(declare-const c Int)(declare-const d Int)(declare-const e Int)
(assert (= e (- (+ b c) 1)))
(assert (< 0 c))
(assert (=> (and (<= b b) (< b (+ b c))) (and (<= a b) (< b (+ a d)))))
(assert (=> (and (<= b e) (< e (+ b c))) (and (<= a e) (< e (+ a d)))))
(assert (not (<= (+ b c) (+ a d))))
(check-sat)
(get-proof)
```

### Versions

- Lean (version 4.30.0-rc2, x86_64-unknown-linux-gnu, commit 3dc1a088b6d2d8eafe25a7cd7ec7b58d731bd7cc, Release)
- Lean (version 4.31.0-nightly-2026-04-29, x86_64-unknown-linux-gnu, commit 0a6c31520b2ebaa6e71227454b46ebfb4986ae7b, Release)
- OS is essentially Debian testing, perhaps lagging by a couple of months.
- This is cvc5 version 1.3.2
- The Coq Proof Assistant, version 8.20.1
